US04124760
Barbituric acid (10.0 g) was dissolved in water (150 ml) at reflux, and the solution was stirred vigorously and maintained at just below refluxing point while freshly distilled cinnamaldehyde (10.3 g) was added slowly: a yellow precipitate formed almost immediately. After the addition, the mixture was stirred and maintained at just below refluxing point for 1 hour to complete the reaction. The product was filtered off, washed several times with hot water and then with cold ethanol, and then dried to give yellow 5-cinnamylidenebarbituric acid (18 g, 96% theoretical yield) m.p. 268°-70° (decomp).

reactant | Barbituric acid | 10.0 g | N1C(=O)NC(=O)CC1=O | C4H4N2O3
reactant | cinnamaldehyde | 10.3 g | C(C=CC1=CC=CC=C1)=O | C9H8O
solvent | water | 150 ml | O | H2O
product | 5-cinnamylidenebarbituric acid | 18 g, 96% | C(C=CC1=CC=CC=C1)=C1C(NC(NC1=O)=O)=O | C13H10N2O3
